US09216996B2
To a solution of 2-chloro-4,6-difluorobenzonitrile (210 mg, 1.2 mmol) in 2.4 mL THF was added a 2M solution of borane-DMS in THF (0.6 mL). This reaction mixture was allowed to stir at refluxing temperature for 18 hours resulting in a loss of all solvent. The residue was re-dissolved in 3 mL THF, cooled to 0° C., a 6M solution of HCl(aq) was carefully added, and the mixture returned to reflux for 30 minutes. The reaction mixture was once again cooled to 0° C. and treated with 4M NaOH(aq). The aqueous phase was extracted with DCM, combined organic phases dried over magnesium sulfate, filtered, and concentrated. The crude residue was purified by flash chromatography (0-10% MeOH/DCM) to afford (2-chloro-4,6-difluorophenyl)methanamine. 1H-NMR (400 MHz, Chloroform-d) δ 6.95 (dt, J=8.3, 2.1 Hz, 1H), 6.76 (td, J=9.4, 2.5 Hz, 1H), 3.94 (d, J=1.9 Hz, 2H).

reactant | 2-chloro-4,6-difluorobenzonitrile | 1.2 mmol, 210 mg | ClC1=C(C#N)C(=CC(=C1)F)F | C7H2ClF2N
reactant | borane DMS | B.CSC
reactant | HCl | Cl | ClH
reactant | NaOH | 4M | [OH-].[Na+]
solvent | THF | 2.4 mL | C1CCOC1 | C4H8O
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (2-chloro-4,6-difluorophenyl)methanamine | ClC1=C(C(=CC(=C1)F)F)CN | C7H6ClF2N
